US05977362
In a four-necked flask equipped with stirrer, reflux cooler, thermometer and dropping funnel, 31 g of 5-fluoroanthranilic acid were dissolved in 280 ml of ethyl acetate at 50° C. To this were added dropwise in the course of 20 minutes 37.6 g of molten 2,4-dichlorophenyl isocyanate from a heatable dropping funnel. The internal temperature increased to 65° C., at which the reaction mixture thickened, but still remained stirrable. It was further stirred for 2 hours under reflux, then cooled to 70° C. and 39.5 g of concentrated sulphuric acid were added dropwise in the course of 10 minutes. The internal temperature again increased to reflux temperature. At this temperature the mixture was further stirred for 4.5 hours, a readily stirrable suspension resulting. The mixture was then cooled to room temperature, the product filtered off by suction and washed twice on the filter each time using 75 ml of ethyl acetate. After drying, 59 g of 3-(2,4-dichlorophenyl)-6-fluoroquinazoline-2,4-dione were obtained having a melting point above 250° C., in a purity of 99% and in a yield of 89.8% of theory.

reactant | 5-fluoroanthranilic acid | 31 g | FC1=CC=C(C(C(=O)O)=C1)N | C7H6FNO2
reactant | 2,4-dichlorophenyl isocyanate | 37.6 g | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
reactant | sulphuric acid | 39.5 g | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 280 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2,4-dichlorophenyl)-6-fluoroquinazoline-2,4-dione | 59 g, yield of 89.8% | ClC1=C(C=CC(=C1)Cl)N1C(NC2=CC=C(C=C2C1=O)F)=O | C14H7Cl2FN2O2
